US07049307B2
2-(2,2-dimethoxyethyl)-5-nitro-2H-indazole
To mixture of 3.00 g (18.4 mmol) of 5-nitroindazole and 5.08 g (36.9 mmol) of K2CO3 in 61 mL of N,N-dimethylformamide and was added 3.42 g (20.2 mmol) of 2-bromo-1,1-dimethoxy-ethane. The mixture was heated to 55° C. and allowed to stir for 12 hours. The reaction mixture was cooled to room temperature and the contents filtered through a bed of celite. The filtrate was then concentrated under reduced pressure and the residue purified via column chromatography (30–80% ethyl acetate/hexanes) to provide 1.08 g of the title product. 1H NMR (400 MHz, DMSO-D6) δ ppm 3.31 (s, 6 H), 4.67 (d, J=5.49 Hz, 2 H), 4.91 (t, J=5.42 Hz, 1 H), 7.81 (m, 1.92 Hz, 1 H), 7.98 (m, 1 H), 8.62 (m, 2 H); MS (DCI/NH3) m/z 252 [M+H]+.

reactant | 5-nitroindazole | 18.4 mmol, 3.00 g | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
reactant | K2CO3 | 36.9 mmol, 5.08 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-1,1-dimethoxy-ethane | 20.2 mmol, 3.42 g | BrCC(OC)OC | C4H9BrO2
solvent | N,N-dimethylformamide | 61 mL | CN(C=O)C | C3H7NO
product | 2-(2,2-dimethoxyethyl)-5-nitro-2H-indazole | 1.08 g | COC(CN1N=C2C=CC(=CC2=C1)[N+](=O)[O-])OC | C11H13N3O4
